US05116862
A mixture of diethyl 2-methyl-2-(pent-4-ynyl)malonate (11 g) and potassium hydroxide (15 g) in 95% ethanol (150 ml) was heated to reflux for 4 hours and then stood at room temperature for 15 hours. The bulk of the solvent was removed in vacuo and the residue was taken up in water. The resulting aqueous phase was washed with dichloromethane before acidification to pH 1 with concentrated hydrochloric acid and further extraction with fresh dichloromethane. These organic extracts were washed with brine before drying over anhydrous magnesium sulphate and evaporation in vacuo. 2-Methyl-2-(pent-4-ynyl)malonic acid was obtained as a pale yellow solid (6.7 g).

reactant | diethyl 2-methyl-2-(pent-4-ynyl)malonate | 11 g | CC(C(=O)OCC)(C(=O)OCC)CCCC#C | C13H20O4
reactant | potassium hydroxide | 15 g | [OH-].[K+]
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | 2-Methyl-2-(pent-4-ynyl)malonic acid | CC(C(=O)O)(C(=O)O)CCCC#C | C9H12O4
